US05973190
Preparation of Ethyl 1-(p-chlorophenyl)-β-oxo-α-(m-phenoxybenzyl)cyclopropanepropionate
A mixture of sodium (0.31 g, 13.5 mmol) in ethanol (90 mL) is stirred at room temperature until the sodium dissolves. The resultant solution is heated to 70° C., treated dropwise with a solution of ethyl 1-(p-chlorophenyl)-β-oxocyclopropanepropionate (3.4 g, 12.8 mmol) in ethanol, stirred at 70° C. for one hour, treated dropwise with a solution of α-bromo-m-tolyl phenyl ether (4.0 g, 15.2 mmol) in ethanol, stirred at reflux overnight, stirred at room temperature for two days, and concentrated in vacuo to obtain a residue. A solution of the residue in ethyl acetate is washed sequentially with water, 10% sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain an oil. Chromatography of the oil using silica gel and a 19:1 hexanes/ethyl acetate solution gives the title product as a colorless oil (5.24 g, 92%) which is identified by NMR spectral analysis.

reactant | sodium | 13.5 mmol, 0.31 g | [Na] | Na
reactant | ethyl 1-(p-chlorophenyl)-β-oxocyclopropanepropionate | 12.8 mmol, 3.4 g | ClC1=CC=C(C=C1)C1(CC1)C(CC(=O)OCC)=O | C14H15ClO3
reactant | α-bromo-m-tolyl phenyl ether | 15.2 mmol, 4.0 g | C1(=CC=CC=C1)OC=1C=C(C=CC1)CBr | C13H11BrO
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | Ethyl 1-(p-chlorophenyl)-β-oxo-α-(m-phenoxybenzyl)cyclopropanepropionate | 5.24 g, 92% | ClC1=CC=C(C=C1)C1(CC1)C(C(C(=O)OCC)CC1=CC(=CC=C1)OC1=CC=CC=C1)=O | C27H25ClO4
